US06878728B1
(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-{4-[3-(3-furoylamino)propoxy]benzyl}-2-hydroxypropylcarbamate (261)
A solution of 44 mg (0.068 mmol) of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(3-aminopropoxy)benzyl]-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate, 15 mg (0.14 mmol) of 3-furoic acid, and 36 μL (0.20 mmol) of N,N-diisopropylethylamine in 2 mL of anhydrous DMF was treated with 52 mg (0.14 mmol) of O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU) and the resulting solution was stirred at RT. After 18 hours the solution was concentrated in vacuo and the residue subjected to flash chromatography (SiO2, 97:3 CH2Cl2/MeOH) to afford 38 mg (75%) of the desired compound as a white foam. 1H NMR (CDCl3): 7.88 (s, 1H), 7.38 (s, 1H), 7.29 (d, 1H), 7.10 (m, 3H), 6.84 (d, 1H), 6.76 (d, 2H), 6.56 (s, 1H), 6.34 (br s, 1H), 6.05 (s, 2H), 5.60 (d, 1H), 5.00 (m, 2H), 4.01 (t, 2H), 3.90 (dd, 1H), 3.80 (m, 3H), 3.64 (m, 2H), 3.55 (q, 2H), 3.17-2.63 (m, 8H), 2.03 (m, 2H), 1.80 (m, 1H), 1.61 (m, 1H), 1.49 (m, 1H), 0.89 (d, 3H), 0.83 (d, 3H). MS(ESI): 744(M+H).

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-[4-(3-aminopropoxy)benzyl]-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxypropylcarbamate | 0.068 mmol, 44 mg | NCCCOC1=CC=C(C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C2=CC3=C(OCO3)C=C2)O)NC(O[C@H]2CO[C@H]3OCC[C@H]32)=O)C=C1 | C31H43N3O10S
reactant | 3-furoic acid | 0.14 mmol, 15 mg | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | N,N-diisopropylethylamine | 0.20 mmol, 36 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.14 mmol, 52 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-{4-[3-(3-furoylamino)propoxy]benzyl}-2-hydroxypropylcarbamate | 38 mg, 75% | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCCCNC(=O)C2=COC=C2)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C36H45N3O12S
